US05385692
Subsequently, 450 ml of dry dichloromethane and 68.7 g (5.15×10-1M) of anhydrous aluminum chloride were placed in a 1 liter-reaction vessel and cooled below 0° C. To the mixture, 37.2 g (4.74×10-1M) of acetyl chloride was added dropwise in 10 minutes below 0° C. and then 90 g (3.91×10-1M) of the above prepared 2-octylindan was added dropwise below 0° C., followed by stirring for 2 hours below 0° C. and further stirring for 2 hours at room temperature. After the reaction, the reaction mixture was poured into 1 liter of ice water and 90 ml of concentrated sulfuric acid was added. The dichloromethane layer was separated from the above mixture and washed with water, followed by drying with anhydrous magnesium sulfate and distilling-off of the solvent to obtain a crude product. The crude product was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=20/1) to obtain 57.6 g of 2-octyl-5-acetylindan.

reactant | aluminum chloride | 5.15×10-1M, 68.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 4.74×10-1M, 37.2 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-octylindan | C(CCCCCCC)C1CC2=CC=CC=C2C1 | C17H26
reactant | sulfuric acid | 90 ml | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
product | 2-octyl-5-acetylindan | 57.6 g | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C(C)=O | C19H28O
